US05935972
2,2,2-Trifluoro-N-(7-methyl-2,3-dihydrobenzofuran-5-yl)-acetamide
Trifluoroacetic anhydride (7.3 ml) was added dropwise to an ice cooled solution of 5-amino-7-methyl-2,3-dihydrobenzofuran (7.3 g) and triethylamine (7.3 ml) in dichloromethane (100 ml) and the resulting mixture stirred at room temperature for 45 mins. The solution was washed with 8% sodium bicarbonate solution (50 ml) then hydrochloric acid (2M; 50 ml), dried (MgSO4), and evaporated in vacuo to afford the title compound as a dark solid (11.9 g).

reactant | Trifluoroacetic anhydride | 7.3 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 5-amino-7-methyl-2,3-dihydrobenzofuran | 7.3 g | NC=1C=C(C2=C(CCO2)C1)C | C9H11NO
reactant | triethylamine | 7.3 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 2,2,2-Trifluoro-N-(7-methyl-2,3-dihydrobenzofuran-5-yl)-acetamide | 11.9 g | FC(C(=O)NC=1C=C(C2=C(CCO2)C1)C)(F)F | C11H10F3NO2
